US07754747B2
A mixture of 1-bromo-6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthol (89 mg 0.192 mmol), prepared in the previous step, bromoacetonitrile (16 μL, 0.23 mmol) and cesium carbonate (127 mg, 0.389 mmol) in 20 mL of acetone was stirred under nitrogen at room temperature for 15 h (overnight). The acetone was removed under reduced pressure and the residue partitioned between methylene chloride and water. The organic layer was separated and the aqueous layer extracted two times with methylene chloride. The combined extracts were dried (MgSO4), filtered and the solvent removed under reduced pressure to give ({1-bromo-6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetonitrile (95 mg, 91%) as a brown solid, mp 144-146° C. Elemental Analysis for C27H21BrN2O3 Calc'd: C, 64.68; H, 4.22; N, 5.59. Found: C, 63.90; H, 4.10; N, 5.18.

reactant | 1-bromo-6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthol | 0.192 mmol, 89 mg | BrC1=C(C=CC2=CC(=CC=C12)C1=CN=C(O1)C1=C(OC2=C1C=CC=C2)CCCC)O | C25H20BrNO3
reactant | bromoacetonitrile | 0.23 mmol, 16 μL | BrCC#N | C2H2BrN
reactant | cesium carbonate | 0.389 mmol, 127 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | ({1-bromo-6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetonitrile | 95 mg, 91% | BrC1=C(C=CC2=CC(=CC=C12)C1=CN=C(O1)C1=C(OC2=C1C=CC=C2)CCCC)OCC#N | C27H21BrN2O3
